** sch_path: /home/claude/cplz_xschem/cplz_ls01/tb_channel.sch
**.subckt tb_channel
XCH a_pad b_pad dir oe_n en tm ring_div vddl vddh 0 CH
**** begin user architecture code

* placeholder models -- replace this whole block with the IHP PDK .lib lines
* (.lib cornerMOSlv.lib mos_tt / cornerMOShv.lib mos_tt) inside IIC-OSIC-TOOLS
.model nlv NMOS (LEVEL=1 VTO=0.32  KP=320u GAMMA=0.35 LAMBDA=0.06 CGSO=0.35n CGDO=0.35n)
.model plv PMOS (LEVEL=1 VTO=-0.35 KP=130u GAMMA=0.35 LAMBDA=0.06 CGSO=0.35n CGDO=0.35n)
.model nhv NMOS (LEVEL=1 VTO=0.55  KP=180u GAMMA=0.45 LAMBDA=0.04 CGSO=0.40n CGDO=0.40n)
.model phv PMOS (LEVEL=1 VTO=-0.60 KP=60u  GAMMA=0.45 LAMBDA=0.04 CGSO=0.40n CGDO=0.40n)
.subckt sg13_lv_nmos d g s b w=1u l=0.13u ng=1 m=1
M1 d g s b nlv W={w} L={l} M={m}
.ends
.subckt sg13_lv_pmos d g s b w=1u l=0.13u ng=1 m=1
M1 d g s b plv W={w} L={l} M={m}
.ends
.subckt sg13_hv_nmos d g s b w=1u l=0.45u ng=1 m=1
M1 d g s b nhv W={w} L={l} M={m}
.ends
.subckt sg13_hv_pmos d g s b w=1u l=0.45u ng=1 m=1
M1 d g s b phv W={w} L={l} M={m}
.ends
VDH vddh 0 3.3
VDL vddl 0 1.2
Ven en   0 PWL(0 0 3n 0 3.5n 1.2)
Voe oe_n 0 0
Vtm tm   0 0
Vdir dir 0 PWL(0 0 200n 0 201n 1.2)
Va adrv 0 PULSE(0 1.2 20n 0.3n 0.3n 4.7n 10n)
SA adrv a_pad actl 0 SWA
Vactl actl 0 PWL(0 1.2 198n 1.2 198.5n 0)
.model SWA SW(Ron=50 Roff=1G Vt=0.6 Vh=0.05)
Vb bdrv 0 PULSE(0 3.3 220n 0.5n 0.5n 4.5n 10n)
SB bdrv b_pad bctl 0 SWB
Vbctl bctl 0 PWL(0 0 202n 0 202.5n 1.2)
.model SWB SW(Ron=50 Roff=1G Vt=0.6 Vh=0.05)
CA a_pad 0 5p
CB b_pad 0 5p
.tran 0.05n 400n
.meas tran tpd_up  trig v(a_pad) val=0.6  rise=4        targ v(b_pad) val=1.65 rise=4
.meas tran tpd_dn  trig v(b_pad) val=1.65 rise=2 td=210n targ v(a_pad) val=0.6 rise=2 td=210n
.meas tran iq_up   avg  i(VDH) from=8n to=18n
.meas tran ipk_flip min i(VDH) from=199n to=206n

**** end user architecture code
**.ends

* expanding   symbol:  cplz_ls01/CH.sym # of pins=10
** sym_path: /home/claude/cplz_xschem/cplz_ls01/CH.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/CH.sch
.subckt CH a_pad b_pad dir oe_n en tm ring_div vddl vddh vss
*.iopin a_pad
*.iopin b_pad
*.iopin dir
*.iopin oe_n
*.iopin en
*.iopin tm
*.iopin ring_div
*.iopin vddl
*.iopin vddh
*.iopin vss
XU1 dir dirb vddl vss INVLV
XU2 oe_n oe vddl vss INVLV
XO1 dirb tm dtu vddl vss OR2LV
XO2 dir tm dtd vddl vss OR2LV
XU3 dtu oe en eur vddl vss AND3LV
XU4 eur eud vddl vss DLY2NS
XU5 eur eud en_up vddl vss AND2LV
XU6 dtd oe en ear vddl vss AND3LV
XU7 ear ead vddl vss DLY2NS
XU8 ear ead en_a vddl vss AND2LV
XU9 en_a en_ab vddl vss INVLV
XL1 en_up en_b_h enb_b_h vddl vddh vss CTRLLS
XL2 en en_h enb_h vddl vddh vss CTRLLS
XL3 tm tm_h tmb_h vddl vddh vss CTRLLS
XRX a_pad arxb vddl vss SCHMLV
XRB arxb a_rx vddl vss INVLV
XM1 a_rx z_l tm a_in vddl vss MUXLV
XG1 a_in en_up a_nb vddl vss NANDLV
XG2 a_nb a_t vddl vss INVLV
XMN1 n1 a_t vss vss sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1
XMN2 n2 a_nb vss vss sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1
XMN3 x vddl n1 vss sg13_hv_nmos w=3.0u l=0.45u ng=1 m=1
XMN4 y vddl n2 vss sg13_hv_nmos w=3.0u l=0.45u ng=1 m=1
XMP1 x y vddh vddh sg13_hv_pmos w=0.8u l=0.8u ng=1 m=1
XMP2 y x vddh vddh sg13_hv_pmos w=0.8u l=0.8u ng=1 m=1
XMN5 y enb_h vss vss sg13_hv_nmos w=0.5u l=0.45u ng=1 m=1
XH1 y z1 vddh vss INVHV1S
XH2 z1 z_h vddh vss INVHV2T
XD1 z_h en_b_h pg vddh vss NANDHV
XD2 z_h enb_b_h ng vddh vss NORHV
XMPD b_pad pg vddh vddh sg13_hv_pmos w=12u l=0.45u ng=1 m=8
XMND b_pad ng vss vss sg13_hv_nmos w=12u l=0.45u ng=1 m=4
RSER b_pad b_rx 200 m=1
XMP6 d1 b_rx vddh vddh sg13_hv_pmos w=1.5u l=0.45u ng=1 m=1
XMN7 d1 b_rx vss vss sg13_hv_nmos w=1.0u l=0.45u ng=1 m=1
XM2 d1 z_h tm_h tmb_h d1m vddh vss MUXHV
XMP8 d2 d1m vddl vddl sg13_hv_pmos w=1.0u l=0.45u ng=1 m=1
XMN9 d2 d1m vss vss sg13_hv_nmos w=0.8u l=0.45u ng=1 m=1
XS2 d2 d3 vddl vss SCHMLV
XPK d3 en_a z_l vddl vss NANDLV
XA1 z_l en_a apg vddl vss NANDLV
XA2 z_l en_ab ang vddl vss NORLV
XMPA a_pad apg vddl vddl sg13_lv_pmos w=24u l=0.13u ng=1 m=1
XMNA a_pad ang vss vss sg13_lv_nmos w=12u l=0.13u ng=1 m=1
XDV z_l ring_div vddl vss DIV16
.ends


* expanding   symbol:  cplz_ls01/INVLV.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/INVLV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/INVLV.sch
.subckt INVLV a y vdd vss
*.iopin a
*.iopin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=1 m=1
XMN y a vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/OR2LV.sym # of pins=5
** sym_path: /home/claude/cplz_xschem/cplz_ls01/OR2LV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/OR2LV.sch
.subckt OR2LV a b y vdd vss
*.iopin a
*.iopin b
*.iopin y
*.iopin vdd
*.iopin vss
X1 a b yn vdd vss NORLV
X2 yn y vdd vss INVLV
.ends


* expanding   symbol:  cplz_ls01/AND3LV.sym # of pins=6
** sym_path: /home/claude/cplz_xschem/cplz_ls01/AND3LV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/AND3LV.sch
.subckt AND3LV a b c y vdd vss
*.iopin a
*.iopin b
*.iopin c
*.iopin y
*.iopin vdd
*.iopin vss
X1 a b c yn vdd vss NAND3LV
X2 yn y vdd vss INVLV
.ends


* expanding   symbol:  cplz_ls01/DLY2NS.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/DLY2NS.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/DLY2NS.sch
.subckt DLY2NS a y vdd vss
*.iopin a
*.iopin y
*.iopin vdd
*.iopin vss
X1 a t1 vdd vss INVLV
C1 t1 vss 0.35p m=1
X2 t1 t2 vdd vss INVLV
C2 t2 vss 0.35p m=1
X3 t2 t3 vdd vss INVLV
C3 t3 vss 0.35p m=1
X4 t3 y vdd vss INVLV
C4 y vss 0.15p m=1
.ends


* expanding   symbol:  cplz_ls01/AND2LV.sym # of pins=5
** sym_path: /home/claude/cplz_xschem/cplz_ls01/AND2LV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/AND2LV.sch
.subckt AND2LV a b y vdd vss
*.iopin a
*.iopin b
*.iopin y
*.iopin vdd
*.iopin vss
X1 a b yn vdd vss NANDLV
X2 yn y vdd vss INVLV
.ends


* expanding   symbol:  cplz_ls01/CTRLLS.sym # of pins=6
** sym_path: /home/claude/cplz_xschem/cplz_ls01/CTRLLS.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/CTRLLS.sch
.subckt CTRLLS in q_h qb_h vddl vddh vss
*.iopin in
*.iopin q_h
*.iopin qb_h
*.iopin vddl
*.iopin vddh
*.iopin vss
XI in inb vddl vss INVLV
XMN1 c1 in vss vss sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XMN2 c2 inb vss vss sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XMC1 qb_h vddl c1 vss sg13_hv_nmos w=1.5u l=0.45u ng=1 m=1
XMC2 q_h vddl c2 vss sg13_hv_nmos w=1.5u l=0.45u ng=1 m=1
XMP1 qb_h q_h vddh vddh sg13_hv_pmos w=0.5u l=1.6u ng=1 m=1
XMP2 q_h qb_h vddh vddh sg13_hv_pmos w=0.5u l=1.6u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/SCHMLV.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/SCHMLV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/SCHMLV.sch
.subckt SCHMLV a y vdd vss
*.iopin a
*.iopin y
*.iopin vdd
*.iopin vss
XMN1 nx a vss vss sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XMN2 y a nx vss sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XMNF vdd y nx vss sg13_lv_nmos w=0.6u l=0.13u ng=1 m=1
XMP1 px a vdd vdd sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XMP2 y a px vdd sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XMPF vss y px vdd sg13_lv_pmos w=1.2u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/MUXLV.sym # of pins=6
** sym_path: /home/claude/cplz_xschem/cplz_ls01/MUXLV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/MUXLV.sch
.subckt MUXLV in0 in1 sel out vdd vss
*.iopin in0
*.iopin in1
*.iopin sel
*.iopin out
*.iopin vdd
*.iopin vss
XI sel selb vdd vss INVLV
XMT0N out selb in0 vss sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XMT0P out sel in0 vdd sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XMT1N out sel in1 vss sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XMT1P out selb in1 vdd sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/NANDLV.sym # of pins=5
** sym_path: /home/claude/cplz_xschem/cplz_ls01/NANDLV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/NANDLV.sch
.subckt NANDLV a b y vdd vss
*.iopin a
*.iopin b
*.iopin y
*.iopin vdd
*.iopin vss
XMP1 y a vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=1 m=1
XMP2 y b vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=1 m=1
XMN1 y a n1 vss sg13_lv_nmos w=0.8u l=0.13u ng=1 m=1
XMN2 n1 b vss vss sg13_lv_nmos w=0.8u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/INVHV1S.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/INVHV1S.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/INVHV1S.sch
.subckt INVHV1S a y vdd vss
*.iopin a
*.iopin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_hv_pmos w=2.0u l=0.45u ng=1 m=1
XMN y a vss vss sg13_hv_nmos w=2.0u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/INVHV2T.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/INVHV2T.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/INVHV2T.sch
.subckt INVHV2T a y vdd vss
*.iopin a
*.iopin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_hv_pmos w=6.0u l=0.45u ng=1 m=1
XMN y a vss vss sg13_hv_nmos w=3.0u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/NANDHV.sym # of pins=5
** sym_path: /home/claude/cplz_xschem/cplz_ls01/NANDHV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/NANDHV.sch
.subckt NANDHV a b y vdd vss
*.iopin a
*.iopin b
*.iopin y
*.iopin vdd
*.iopin vss
XMP1 y a vdd vdd sg13_hv_pmos w=2.0u l=0.45u ng=1 m=1
XMP2 y b vdd vdd sg13_hv_pmos w=2.0u l=0.45u ng=1 m=1
XMN1 y a n1 vss sg13_hv_nmos w=2.0u l=0.45u ng=1 m=1
XMN2 n1 b vss vss sg13_hv_nmos w=2.0u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/NORHV.sym # of pins=5
** sym_path: /home/claude/cplz_xschem/cplz_ls01/NORHV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/NORHV.sch
.subckt NORHV a b y vdd vss
*.iopin a
*.iopin b
*.iopin y
*.iopin vdd
*.iopin vss
XMP1 p1 a vdd vdd sg13_hv_pmos w=4.0u l=0.45u ng=1 m=1
XMP2 y b p1 vdd sg13_hv_pmos w=4.0u l=0.45u ng=1 m=1
XMN1 y a vss vss sg13_hv_nmos w=1.0u l=0.45u ng=1 m=1
XMN2 y b vss vss sg13_hv_nmos w=1.0u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/MUXHV.sym # of pins=7
** sym_path: /home/claude/cplz_xschem/cplz_ls01/MUXHV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/MUXHV.sch
.subckt MUXHV in0 in1 sel selb out vdd vss
*.iopin in0
*.iopin in1
*.iopin sel
*.iopin selb
*.iopin out
*.iopin vdd
*.iopin vss
XMT0N out selb in0 vss sg13_hv_nmos w=1.5u l=0.45u ng=1 m=1
XMT0P out sel in0 vdd sg13_hv_pmos w=3.0u l=0.45u ng=1 m=1
XMT1N out sel in1 vss sg13_hv_nmos w=1.5u l=0.45u ng=1 m=1
XMT1P out selb in1 vdd sg13_hv_pmos w=3.0u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/NORLV.sym # of pins=5
** sym_path: /home/claude/cplz_xschem/cplz_ls01/NORLV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/NORLV.sch
.subckt NORLV a b y vdd vss
*.iopin a
*.iopin b
*.iopin y
*.iopin vdd
*.iopin vss
XMP1 p1 a vdd vdd sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XMP2 y b p1 vdd sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XMN1 y a vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XMN2 y b vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/DIV16.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/DIV16.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/DIV16.sch
.subckt DIV16 in out vdd vss
*.iopin in
*.iopin out
*.iopin vdd
*.iopin vss
XB1 in b1 vdd vss INVLV
XB2 b1 ck0 vdd vss INVLV
X1 q1b ck0 q1 q1b vdd vss DFFLV
X2 q2b q1 q2 q2b vdd vss DFFLV
X3 q3b q2 q3 q3b vdd vss DFFLV
X4 q4b q3 out q4b vdd vss DFFLV
.ends


* expanding   symbol:  cplz_ls01/NAND3LV.sym # of pins=6
** sym_path: /home/claude/cplz_xschem/cplz_ls01/NAND3LV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/NAND3LV.sch
.subckt NAND3LV a b c y vdd vss
*.iopin a
*.iopin b
*.iopin c
*.iopin y
*.iopin vdd
*.iopin vss
XMP1 y a vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=1 m=1
XMP2 y b vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=1 m=1
XMP3 y c vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=1 m=1
XMN1 y a n1 vss sg13_lv_nmos w=1.2u l=0.13u ng=1 m=1
XMN2 n1 b n2 vss sg13_lv_nmos w=1.2u l=0.13u ng=1 m=1
XMN3 n2 c vss vss sg13_lv_nmos w=1.2u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  cplz_ls01/DFFLV.sym # of pins=6
** sym_path: /home/claude/cplz_xschem/cplz_ls01/DFFLV.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/DFFLV.sch
.subckt DFFLV d clk q qb vdd vss
*.iopin d
*.iopin clk
*.iopin q
*.iopin qb
*.iopin vdd
*.iopin vss
XI0 clk clkb vdd vss INVLV
XI9 clkb clki vdd vss INVLV
XMT1N m1 clkb d vss sg13_lv_nmos w=0.6u l=0.13u ng=1 m=1
XMT1P m1 clki d vdd sg13_lv_pmos w=1.2u l=0.13u ng=1 m=1
XI1 m1 m1b vdd vss INVLV
XI2 m1b m1f vdd vss INVLVW
XMT2N m1 clki m1f vss sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1
XMT2P m1 clkb m1f vdd sg13_lv_pmos w=0.6u l=0.13u ng=1 m=1
XMT3N s1 clki m1b vss sg13_lv_nmos w=0.6u l=0.13u ng=1 m=1
XMT3P s1 clkb m1b vdd sg13_lv_pmos w=1.2u l=0.13u ng=1 m=1
XI3 s1 s1b vdd vss INVLV
XI4 s1b s1f vdd vss INVLVW
XMT4N s1 clkb s1f vss sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1
XMT4P s1 clki s1f vdd sg13_lv_pmos w=0.6u l=0.13u ng=1 m=1
XI5 s1b qb vdd vss INVLV
XI6 qb q vdd vss INVLV
.ends


* expanding   symbol:  cplz_ls01/INVLVW.sym # of pins=4
** sym_path: /home/claude/cplz_xschem/cplz_ls01/INVLVW.sym
** sch_path: /home/claude/cplz_xschem/cplz_ls01/INVLVW.sch
.subckt INVLVW a y vdd vss
*.iopin a
*.iopin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_lv_pmos w=0.3u l=0.3u ng=1 m=1
XMN y a vss vss sg13_lv_nmos w=0.3u l=0.3u ng=1 m=1
.ends

.end
